Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fatigue, anemia
 
Major Surgical or Invasive Procedure:
EGD
Colonoscopy
Push enteroscopy
Capsule endoscopy
 
History of Present Illness:
Mr ___ is a ___ male with no PMH presenting to the 
emergency department with dark tarry stools. Patient states that 
he has had multiple dark tarry stools since attending a ___ 
Bowl party on ___. He normally has ___
bowel movements a day and continues to do so, however he has 
noted that his stools are now dark in color. Endorses one 
episode of diarrhea but is not ongoing, also states he may have 
had some frank blood in his stool at 3 pM yesterday but is not 
certain about this. Of note, the patient's wife also has had 1 
episode of diarrhea but did not note tarry stools like her 
husband. At the
party, the patient and his wife had meatballs and chicken wings. 
 Accompanying the onset of these dark tarry stools, the patient 
does note shortness of breath, tachycardia, mild CP, sweats and 
fatigue.  CP now resolved however he notes that these sxs were 
worse with activity. He also states that he feels quite 
fatigued.
Denies NSAID use, drinks 1x/wk ___ drinks at a time.  Endorses 
mild epigastric discomfort.  He has never had an episode of like 
this before.  Denies N/v/fevers/dysuria.  

In the ED, initial vitals were: 98 99 141/83 18 99% RA Labs were 
notable for crit 20.4, otherwise WNL.  Pt was given 2 UPRBCs and 
transferred to the floor.
 
On the floor, no new complaints, mild epigastric pain persists, 
no CP.

Review of systems:
(+) Per HPI
(-) Denies fever, night sweats, recent weight loss or gain. 
Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies cough, shortness of breath. Denies nausea, vomiting, 
constipation. No dysuria. Denies arthralgias or myalgias. 10 pt 
ros otherwise negative.

TRANSITIONAL ISSUES 
[]  outpatient RUQ U/S and possible fibroscan as an
outpatient for elevated LFTS
[] If Hgb is stable and no evidence of ongoing bleed, can 
consider
repeating capsule study as an outpatient  (patient removed his
belt early and capsule study inpatient was incomplete)
 
Past Medical History:
knee surgery in ___ for meniscal tear
 
Social History:
___
Family History:
Mother with breast ca x2.  Grandfather with ___ cancer.  Uncle 
with cirrhosis.

 
Physical Exam:
Admission exam
Vitals: 98.7PO 123 / 71 96 18 100 RA 
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
Neck: Supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes,
rales, rhonchi
GI: Soft, mild TTP in epigastrium, non-distended, bowel sounds
present, no organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions

Discharge exam
 
Pertinent Results:
Admission labs

___ 07:45PM BLOOD WBC-21.2* RBC-2.21* Hgb-6.4* Hct-20.4* 
MCV-92 MCH-29.0 MCHC-31.4* RDW-15.4 RDWSD-47.2* Plt ___
___ 07:45PM BLOOD Glucose-101* UreaN-20 Creat-0.9 Na-137 
K-4.2 Cl-104 HCO3-23 AnGap-10
___ 07:45PM BLOOD ALT-87* AST-87* AlkPhos-29* TotBili-0.2
___ 07:45PM BLOOD Albumin-4.0 Calcium-8.3* Phos-4.1 Mg-2.0

Discharge labs

Imaging
===========================
CTA ___
 
IMPRESSION:  
No active contrast extravasation or contrast pooling seen 
throughout the 
gastrointestinal system to explain the patient's melena. 

EGD ___ - small non-bleeding ulcer

Colonoscopy ___ - normal mucosa

Push enteroscopy ___ - superficial non-bleeding ulcers in 
duodenal bulb

  

 
Brief Hospital Course:
___ yo M with no PMH p/w melanotic stools and anemia concerning 
for UGIB.

# acute blood loss anemia
# upper GIB - patient presented with Hgb ~6, was started on IV 
PPI. He received two units PRBC in the ED. GI was consulted and 
underwent EGD on ___ with small nonbleeding ulcers in duodenal 
bulb. CTA A/P without source of bleed and patient continued to 
have melena with inappropriate response to transfusion. He was 
given an additional 2 units PRBC. Patient underwent push 
enteroscopy with capsule placement and colonscopy on ___. 

# transaminitis: hepatitis panel pending

# Leukocytosis: no evidence of acute infx, ? acute phase 
reactant, improved with IVF and transfusion. 

# CP: complained of chest pain PTA, now resolved with no EKG 
changes.  ___ be demand I/s/o blood loss, would consider 
outpatient stress test if persistent exertional cp.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gi Bleeding

 
Discharge Condition:
improved

 
Discharge Instructions:
Dear Mr ___, 
You were admitted to the hospital for concerns of bleeding in 
your gut. Our gastroeneterologist did various tests to determine 
the source and cause, though so far appears to be unrevealing 
except for 2 small ulcers. Kindly follow up with the 
gastroenterologist and your primary care doctor for 

- outpatient Liver ultrasound and possible fibroscan
- If further bleeding consider repeating capsule study as an 
outpatient  
 
Followup Instructions:
___